US05627203
Methyl 3-(pyrrol-1-yl)thiophene-2-carboxylate
At room temperature, add 20 g (0.127 mol) of methyl 3-aminothiophene-2-carboxylate in small portions to a solution of 16.80 g (0.127 mol) of 2,5-dimethoxytetrahydrofuran in 100 ml of acetic acid. After 30 minutes' stirring at room temperature, then 90 minutes at 90° C., the acetic acid is removed under reduced pressure and the residue is taken up in 100 ml of 2N sodium hydroxide solution and extracted with diethyl ether. After washing with water and rendering colourless with animal charcoal, the ethereal phase is concentrated to dryness to yield the title compound.

reactant | methyl 3-aminothiophene-2-carboxylate | 0.127 mol, 20 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | 2,5-dimethoxytetrahydrofuran | 0.127 mol, 16.80 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | Methyl 3-(pyrrol-1-yl)thiophene-2-carboxylate | Yield: 68% | N1(C=CC=C1)C1=C(SC=C1)C(=O)OC | C10H9NO2S
